US05736534
6,7-Dimethoxy-4-(6-methyl-3,4-dihydro-2H-quinolin-1-yl)-quinazoline
Utilizing a procedure analogous to that described in Example 2, this product was prepared in 94% yield from 6-methyl-1,2,3,4-tetrahydroquinoline (2 eq.) and 4-chloro-6,7-dimethoxy-quinazoline (1.0 eq) in i-PrOH. (M.P. 147°-148° C.; LC-MS: 336 (MH+); anal. RP18-HPLC RT: 4.51 min.).

reactant | 6-methyl-1,2,3,4-tetrahydroquinoline | 2 eq. | CC=1C=C2CCCNC2=CC1 | C10H13N
reactant | 4-chloro-6,7-dimethoxy-quinazoline | 1.0 eq | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
solvent | i-PrOH | CC(C)O | C3H8O
product | 6,7-Dimethoxy-4-(6-methyl-3,4-dihydro-2H-quinolin-1-yl)-quinazoline | 94% yield | COC=1C=C2C(=NC=NC2=CC1OC)N1CCCC2=CC(=CC=C12)C | C20H21N3O2
